Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dapsone / methotrexate
 
Attending: ___.
 
Chief Complaint:
Scheduled chemotherapy high dose methotrexate
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH of HIV, CNS Lymphoma, Multinodular goiter causing
dysphagia (s/p total thyroidectomy) presented for last of his
yearly methotrexate infusions 

Of note patient had last MRI in ___ without e/o disease
recurrence so presents for last yearly MTX infusion then will be
followed with observation alone. 

Patient is ___ speaking so bilingual nurse assisted for
translation. 

Pt reports that he is in his USOH without any neurologic
concerns/symptoms. He stated that he is eating, drinking,
voiding, stooling without difficulty. Noted that he has normal
energy levels. Reported that he is slightly anxious during
admissions, and is hopeful that he will not have to stay in the
hospital too long  
 
REVIEW OF SYSTEMS:  
A complete 10-point review of systems was performed and was
negative unless otherwise noted in the HPI. 
 
Past Medical History:
- HIV on HAART (viral load undetectable)
- CAD
- HTN
- MI s/p stent placement x 3 (___)
- CNS lymphoma (dx ___, on chemotherapy, no neuro deficits)

 
Social History:
___
Family History:
His parents are alive; his mother has pre-diabetes while his 
father has glaucoma and prostate cancer.  He has 6 brothers.  He 
has 3 daughters and they are all healthy.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: 24 HR Data (last updated ___ @ 1137)
    Temp: 98.5 (Tm 98.5), BP: 115/80, HR: 76, RR: 18, O2 sat:
97%, O2 delivery: RA, Wt: 199.8 lb/90.63 kg   
GENERAL: Sitting in bed, appears comfortable, no acute distress,
pleasant, calm
EYES: He was equally round reactive to light, anicteric sclera
HEENT: Oropharynx clear, moist mucous membranes
NECK: Supple, normal range of motion
LUNGS: Clear to auscultation bilaterally no wheezes rales or
rhonchi, no increased work of breathing 
CV: regular rate and rhythm, no murmurs rubs or gallops, normal
distal perfusion
ABD: Soft, nondistended, normoactive BS, nontender 
GENITOURINARY:
no Foley or suprapubic tenderness
EXT: No deformity, normal muscle bulk, normal strength 5 out of 
5
all extremities
SKIN: Warm dry, no rash 
NEURO: Alert and oriented x3, fluent speech, cranial nerves
intact without focal deficits, strength intact in bilateral
upper/lower extremities, sensation preserved grossly in all
extremities.
ACCESS: Peripheral IV

DISCHARGE EXAM:
119 / 72 66 16 98 RA  
GENERAL: Standing in room, no distress, pleasant. 
EYES: Round reactive to light, anicteric sclera
HEENT: Oropharynx clear, moist mucous membranes
NECK: Supple, normal range of motion
LUNGS: Clear to auscultation bilaterally no wheezes rales or
rhonchi, no increased work of breathing 
CV: regular rate and rhythm, no murmurs rubs or gallops, normal
distal perfusion
ABD: Soft, nondistended, normoactive BS, nontender
GENITOURINARY: no Foley or suprapubic tenderness
EXT: No deformity, normal muscle bulk, normal strength 5 out of 
5
all extremities
SKIN: Warm dry, no rash 
NEURO: Alert and oriented x3, fluent speech, cranial nerves
intact without focal deficits, strength intact in bilateral
upper/lower extremities, sensation preserved grossly in all
extremities.
 
Pertinent Results:
ADMISSION LABS:
___ 12:30PM BLOOD WBC-4.2 RBC-4.79 Hgb-14.7 Hct-44.4 MCV-93 
MCH-30.7 MCHC-33.1 RDW-12.7 RDWSD-43.5 Plt ___
___ 12:30PM BLOOD Neuts-55.8 ___ Monos-8.9 Eos-2.2 
Baso-0.7 Im ___ AbsNeut-2.32 AbsLymp-1.34 AbsMono-0.37 
AbsEos-0.09 AbsBaso-0.03
___ 12:30PM BLOOD ___ PTT-32.9 ___
___ 12:30PM BLOOD Glucose-96 UreaN-13 Creat-1.3* Na-140 
K-4.2 Cl-107 HCO3-23 AnGap-10
___ 12:30PM BLOOD ALT-31 AST-25 AlkPhos-64 TotBili-0.3
___ 12:30PM BLOOD Calcium-9.2 Phos-3.0 Mg-2.0

LFT trend:
___ 12:30PM BLOOD ALT-31 AST-25 AlkPhos-64 TotBili-0.3
___ 05:48AM BLOOD ALT-26 AST-20 AlkPhos-59 TotBili-0.2
___ 09:00AM BLOOD ALT-175* AST-116* AlkPhos-71 TotBili-0.4
___ 09:00AM BLOOD ALT-203* AST-133* AlkPhos-60 TotBili-0.3
___ 09:00AM BLOOD ALT-281* AST-164* AlkPhos-69 TotBili-0.6
___ 03:08PM BLOOD ALT-319* AST-192* AlkPhos-71 TotBili-0.5
___ 05:45AM BLOOD ALT-405* AST-248* AlkPhos-68 TotBili-0.7
___ 06:00AM BLOOD ALT-332* AST-139* AlkPhos-67 TotBili-0.4

MTX trend:
___ 09:00AM BLOOD mthotrx-1.8*
___ 09:00AM BLOOD mthotrx-0.53*
___ 09:00AM BLOOD mthotrx-0.11
___ 03:08PM BLOOD mthotrx-0.09
___ 05:45AM BLOOD mthotrx-0.05
___ 06:00AM BLOOD mthotrx-<0.04

OTHER DISCHARGE LABS:
___ 06:00AM BLOOD WBC-3.1* RBC-4.74 Hgb-14.9 Hct-44.7 
MCV-94 MCH-31.4 MCHC-33.3 RDW-12.2 RDWSD-42.7 Plt ___
___ 06:00AM BLOOD Neuts-63.7 ___ Monos-2.9* Eos-1.9 
Baso-0.3 Im ___ AbsNeut-2.00 AbsLymp-0.97* AbsMono-0.09* 
AbsEos-0.06 AbsBaso-0.01
___ 06:00AM BLOOD ___ PTT-30.2 ___
___ 06:00AM BLOOD Glucose-91 UreaN-8 Creat-1.3* Na-139 
K-4.2 Cl-98 HCO3-32 AnGap-9*
___ 06:00AM BLOOD Calcium-8.9 Phos-3.3 Mg-2.___ PMH of HIV, CNS Lymphoma, Multinodular goiter causing 
dysphagia (s/p total thyroidectomy) presented for last of his 
yearly methotrexate infusions course c/b transaminitis

#CNS Lymphoma
#Transaminitis ___ liver injury from methotrexate infusion
Last MRI in ___ without e/o disease recurrence so presented 
for yearly MTX infusion. Dosing was complicated by transaminitis 
which was improving but not resolved by time of discharge. 
Patient was instructed to schedule an appt and repeat lab draw 
for LFTs with his PCP ___ 1 week to ensure that they have 
normalized. Pt is to f/u with Dr ___ in ___ year. 

#CAD: 
Takes single agent ASA at home. Given interference with MTX, ASA 
replaced with Plavix during stay

#HTN
Continued on lisinopril/metoprolol during stay

#HLD
Statin held during stay and on discharge in view of 
transaminitis. Patient is to continue to withhold dosing until 
his LFTs are re-checked by his primary care doctor.

#HIV
Reportedly well controlled, continued on stribild

#Headache/Migraine
Right sided above eye. Occurred on ___, unresponsive to 
multiple agents, CTH negative for acute issues, eventually 
resolved with fioricet.

Transitional Issues:
1. Patient was instructed to schedule an appt and repeat lab 
draw for LFTs with his PCP ___ 1 week to ensure that they have 
normalized. 
2.Patient is to continue to withhold pravastatin dosing until 
his LFTs are re-checked by his primary care doctor
3.Pt is to f/u with Dr ___ in ___ year

I personally spent 26 minutes preparing discharge paperwork, 
educating patient/family, answering questions, and coordinating 
care with outpatient providers
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Pravastatin 80 mg PO QPM 
5. Stribild 1 tab Other DAILY 
6. Levothyroxine Sodium 150 mcg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Levothyroxine Sodium 150 mcg PO DAILY  
3.  Lisinopril 5 mg PO DAILY  
4.  Metoprolol Succinate XL 25 mg PO DAILY  
5.  Stribild 1 tab Other DAILY  
6. HELD- Pravastatin 80 mg PO QPM  This medication was held. Do 
not restart Pravastatin until you have your liver tests 
re-checked by your primary care doctor in 1 weeks time

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CNS Lymphoma
HD MTX infusion
HIV
Transaminitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___,

It was a pleasure taking care of you while you were hospitalized 
at ___. As you know, you were admitted for your annual 
methotrexate infusion which you tolerated well. You should get 
your liver tests checked in 1 week by your primary care doctor 
to ensure that they have normalized. 

Dr ___ will call you with followup appointment details 
for next year. 
 
Followup Instructions:
___